Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Nitroimidazoles / Flagyl
 
Attending: ___
 
Chief Complaint:
left arm & leg paresthesias
 
Major Surgical or Invasive Procedure:
Angiogram

 
History of Present Illness:
The patient is a ___ year-old right-handed woman with a history 
of migraine headaches, Mo___ syndrome s/p R ECIC bypass ___, 
cervical disc disease who presented to the ED with 5 days of 
left arm and leg paresthesias, left leg heaviness and left eye 
drooping.

On ___, around 5pm, she had gradual onset of left arm 
tingling, "like when your arm falls asleep."  No ___ of 
symptoms.  There was no arm or neck pain and no headache.  No 
weakness at that time.  No other sensory changes. 

On ___, the left arm tingling persisted and her left leg 
started tingling and was also "heavy" causing her to walk 
slower. She did not actually trip over the leg. She also notice 
the left upper eye lid was slightly more droopy than normal. 
Again still no headache or neck pain.  These symptoms persisted 
over the
weekend and she was seen at ___ Urgent Care ___.  Her 
Neurologist was notified and urged her to present to our ___ 
ED for observation and imaging.  

Recently, within the past 2 weeks, Ms. ___ has had a genital 
herpes outbreak and treated herself with Valacyclovir 500mg BID. 
Of note, she has herpes outbreaks 2x per year and never had 
neurological symptoms with these.  She does not see a vesicular 
rash on other body parts.  No fevers.  No other infectious
symptoms.

With regards to more remote history:

- ___: Of note, Ms. ___ experienced these symptoms (left 
arm /leg tingling and left eyelid drooping and left leg 
heaviness) in ___ when she was diagnosed with a TIA 
and MoyaMoya at the ___.  She was started on ASA, but the 
symptoms actually persisted (at least present 80% of the 
time)until ___ when she underwent ECIC at ___.  Since 
that time, she is maintained on ASA 325 which she takes with 
100% compliance.  There may have been one event of sensory 
symptoms since ___, but she was sent home from the ED and her 
testing was, per her report, normal.  

- MIGRAINES: She has a lifelong history of migraines and 
currently has ___ per month.  She has right-side predominant 
aching, pulsating pain as well as a sense of tightness in her 
head.  These are triggered by foul odors. + photophobia. No 
phonophobia or n/v.  She specifically denies visual or sensory
auras with any migraines.  Migraines are relieved with laying in 
a dark room and Midrin. 

- CERVICAL DISC DISEASE: In ___, she had severe neck pain and 
right arm weakness and was dignosed with a cervical disc bulge 
for which she had a cortisone injections.

 
Past Medical History:
- ___ syndrome, s/p ECIC bypass in ___ at ___
- Carotid stenosis - per patient report on right
- TIA ___ - ** although per her report symptoms lasted
7 months
- Hypertension
- Hyperlipidemia: Chol 129, HDL 59, LDL 52, ___ 88 on ___
- Impaired glucose tolerance: ** Last A1c 6.0% on ___.
- Migraine headaches
- Genital herpes
- Cervical disc disease
- Amblyopia OS in youth
- Anxiety
- Polycystic ovaries

 
Social History:
___
Family History:
Father with diabetes, colon cancer, HLD, HTN, stroke - age ___.  
Mother with HTN and migraines headaches. Cousin with AVM.  No 
other family members with strokes, seizures, aneurysms, vascular 
malformations, miscarriages, blood clots. 
 
Physical Exam:
****ADMISSION PHYSICAL EXAMINATION****
PHYSICAL EXAMINATION
Vitals:  T 97.7  HR 88 BP 169/89 RR 14 POX 100% RA 
General:  NAD
HEENT:  no oropharyngeal lesions, left palpebral fissure is
narrowed  - ? left ptosis, neck supple, no conjunctival 
injection
or tearing.
___: RRR, no M/R/G, no carotid bruits
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, no guarding
Extremities: Warm, no edema

Neurologic Examination:
Awake, alert, oriented x 3. Able to relate history without
difficulty. Attentive to conversation. Speech is fluent with 
full
sentences, intact repetition, and intact verbal comprehension.
Naming intact.  No paraphasias.  No dysarthria. Normal prosody.
No apraxia. No evidence of hemineglect. No left-right confusion. 

Able to follow both midline and appendicular commands.

- Cranial Nerves - Fundi with sharp disc margins bilaterally.
PERRL 4->2 briskly. VF full to number counting. EOMI, no
nystagmus. V1-V3 without deficits to light touch or pin
bilaterally. There is slight left ptosis ~2mm, but does not
obstruct pupillary aperture. No miosis. Hearing intact to finger
rub bilaterally.  Palate elevation symmetric. SCM/Trapezius
strength ___ bilaterally. Tongue midline.

- Motor - Normal bulk and tone. No drift. No tremor or 
asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5-   ___-  ___  5-  5    5- 5     5     5
R  5    ___   ___  5   5    5  5     5     5

- Sensory - At rest, she has paresthesias of the left arm and
leg.  With pin prick testing on the left arm and leg this causes
dysesthesia and "triggers more tingling."  No deficit to light
touch bilaterally.  JPS at great toes intact bilaterally. No
exinction to DSS.  No agraphesthesia.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    3   2
R  2  2    2    2   2
Plantar response flexor bilaterally.  No Hoffmans. No clonus

- Coordination - No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence with rapid 
alternating
movements.  Left finger to thumb crease is slightly clumsy
compared to right.

- Gait - Normal initiation. Narrow base. Normal stride length 
and
arm swing. Stable without sway. Negative Romberg.  Tandem gait
was difficult and she took corrective steps. 

****DISCHARGE PHYSICAL EXAMINATION****
24 hour: Tm 98.7 Tc 98.5 BP 117-150/73-94 HR 70-102 RR ___ O2 
sat 95-100%
General: NAD
HEENT: MMM
Pulm: Non-labored breathing
CV: no cyanosis
Abd: ND
Ext: WWP

Neuro:
MS: A&O x3. Conversant, speech fluent. 
CN: Face grossly symmetric with possible very slight left 
ptosis. 
Motor: Moves all 4 extremities at least anti-gravity. Possible 
very slight left pronation without downward drift. 
Sensory: Grossly intact to LT in all 4 extremities. Continues to 
report subjective paresthesias intermittently 
 
Pertinent Results:
___ 12:19PM BLOOD WBC-8.0 RBC-4.26 Hgb-13.0 Hct-38.8 MCV-91 
MCH-30.5 MCHC-33.5 RDW-12.6 RDWSD-41.5 Plt ___

___ 12:19PM BLOOD Neuts-65.9 ___ Monos-6.1 Eos-0.5* 
Baso-0.4 Im ___ AbsNeut-5.27 AbsLymp-2.14 AbsMono-0.49 
AbsEos-0.04 AbsBaso-0.03
___ 12:19PM BLOOD WBC-8.0 RBC-4.26 Hgb-13.0 Hct-38.8 MCV-91 
MCH-30.5 MCHC-33.5 RDW-12.6 RDWSD-41.5 Plt ___
___ 12:19PM BLOOD ___ PTT-29.6 ___
___ 12:19PM BLOOD Plt ___
___ 06:05AM BLOOD ___ PTT-30.1 ___
___ 06:05AM BLOOD Plt ___
___ 12:19PM BLOOD Glucose-87 UreaN-15 Creat-0.7 Na-138 
K-4.1 Cl-105 HCO3-19* AnGap-18
___ 06:05AM BLOOD Glucose-105* UreaN-15 Creat-0.7 Na-139 
K-4.4 Cl-105 HCO3-25 AnGap-13
___ 12:19PM BLOOD ALT-20 AlkPhos-72 TotBili-0.6
___ 12:19PM BLOOD Albumin-4.6 Calcium-9.2 Phos-3.4 Mg-2.0
___ 05:50AM BLOOD Calcium-9.3 Phos-4.4 Mg-2.0
___ 06:05AM BLOOD Calcium-9.0 Phos-3.4 Mg-1.9
___ 12:19PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

Imaging:
___
Noncontrast head CT: The patient is status post right temporal 
craniotomy.  
The adjacent hypodensities likely represent chronic post 
surgical encephalomalacia, however there are no priors for 
comparison. There is no 
evidence of hemorrhage. The ventricles are normal in size and 
appearance. 
  
CTA: The right internal carotid artery and the right A1 are 
diminutive in 
size. The right proximal M1 is also diminutive, and the distal 
M1 segment is not visualized. The patient is status post right 
MCA bypass. Although the bypass is not definitively visualized, 
there is patent parenchymal vasculature in this area. It is 
unclear whether the vasculature is being supplied from 
leptomeningeal collaterals or from the bypass. 

MRI: 
1. No acute infarct. 
2. Decreased caliber of the right internal carotid artery and 
decreased 
visualization of the branch vessels, consistent with history of 
___ 
disease and better evaluated on the prior CTA. 

___
Carotid/cerebral bilateral angiogram: 
IMPRESSION:  
1. Right-sided severe of ___ disease. Functioning STA 
bypass graft.  
Extensive collateralization from the graft, and anterior 
cerebral artery which is patent supplied by the left side 
anterior communicating artery, and right posterior cerebral 
artery. 

 
Brief Hospital Course:
Ms. ___ is a ___ year-old right-handed woman with a history of 
migraine headaches, ___ syndrome s/p R ECIC bypass ___, 
and cervical disc disease who presents to the ED with 5 days of 
left arm and leg paresthesias, left leg heaviness and mild left 
eye drooping. Her initial exam notable for subtle left 
hemiparesis and slight left ptosis. She has subjective sensory 
deficit as well. She was imaged with CT/CTA/MRI there was no 
evidence of acute stroke. Neurosurgery consulted for angiogram 
which showed (per op report) "right-sided severe of moyamoya 
disease. Functioning STA bypass graft. Extensive 
collateralization from the graft, and anterior cerebral artery 
which is patent supplied by the left side anterior communicating 
artery, and right posterior cerebral artery." We also considered 
obtaining extended routine EEG to assess for seizures, though 
patient did have unrevealing EEG in the past. Given paresthesias 
only and patient stable with otherwise reassuring examination, 
she may obtain this as an outpatient. 

She had a chest X-ray as part of pre-angiogram evaluation. This 
showed a chain suture in the left upper lobe (indicating prior 
surgery) but also showed the suggestion of a 10 mm soft tissue 
nodule in the region. Radiology suggested chest CT to further 
evaluate. This may be obtained as an outpatient. 

TRANSITIONAL ISSUES:
1. Continue home aspirin, remaining home medications
2. Follow up with Neurology and PCP
3. Consider extended routine EEG as an outpatient
4. Obtain chest CT to further evaluate possible 10 mm left upper 
lobe soft tissue nodule seen on chest X-ray

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed – () No  
2. DVT Prophylaxis administered? (x) Yes - () No  
3. Antithrombotic therapy administered by end of hospital day 2? 
() Yes - () No  
4. LDL documented? (x) Yes (LDL = ) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) (x) Yes - () No [if 
LDL >100, reason not given: ]  
6. Smoking cessation counseling given? () Yes - () No [reason 
(x) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No  
9. Discharged on statin therapy? (x) Yes - () No [if LDL >100, 
reason not given: ]  
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 325 mg PO DAILY 
2. Verapamil 120 mg PO DAILY 
3. Atorvastatin 80 mg PO DAILY 
4. Lisinopril 2.5 mg PO BID 
5. ValACYclovir 500 mg PO BID:PRN Genital herpes outbreak 
6. isometh-dichloral-acetaminophn 65-100-325 mg oral PRN 
Migraine HA 
7. Multivitamins 1 TAB PO DAILY 
8. Meclizine Dose is Unknown  PO PRN Dizziness 

 
Discharge Medications:
1. Aspirin 325 mg PO DAILY 
2. Atorvastatin 80 mg PO DAILY 
3. isometh-dichloral-acetaminophn 65-100-325 mg oral PRN 
Migraine HA 
4. Lisinopril 2.5 mg PO BID 
5. Meclizine unknown  PO PRN Dizziness 
6. Multivitamins 1 TAB PO DAILY 
7. ValACYclovir 500 mg PO BID:PRN Genital herpes outbreak 
8. Verapamil 120 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
--
Secondary: 
- ___ syndrome, s/p ECIC bypass in ___ at ___
- Carotid stenosis - per patient report on right
- TIA ___ - ** although per her report symptoms lasted
7 months
- Hypertension
- Hyperlipidemia: Chol 129, HDL 59, LDL 52, ___ 88 on ___
- Impaired glucose tolerance: ** Last A1c 6.0% on ___.
- Migraine headaches
- Genital herpes
- Cervical disc disease
- Amblyopia OS in youth
- Anxiety
- Polycystic ovaries

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 

You were admitted to the neurology service with symptoms of left 
sided tingling concerning for an acute stroke. You were imaged 
with CT/CTA/MRI which did not show evidence of acute stroke. We 
have consulted neurosurgery to perform an angiogram which 
assessed blood flow through your bypass. This study showed 
evidence of your known ___ syndrome on the right as well as 
an open (functioning) blood vessel graft. Neurosurgery did not 
recommend any surgeries. You were continued on your home 
aspirin. You should follow up with your neurologist and your 
primary care physician and take your medications as prescribed. 
Your neurologist may consider getting an EEG (another brain wave 
test which you have had in the past) if you continue to have 
tingling episodes. If you have worsening symptoms, any new or 
concerning symptoms, please seek additional medical attention.

You did have an area of possible abnormality seen on your chest 
X-ray. You should have a chest CT to better evaluate this as an 
outpatient. Your primary care physician can help you arrange 
this. 

It was a pleasure caring for you. 

Sincerely,
Your ___ Neurology Stroke Team  
 
Followup Instructions:
___